* Flat model INVX1
m_xcut/m_xcut/mx_sis_top.xnr1/mn1 y a 0 0 n w=1.9e-07 l=1e-07 m=1
m_xcut/m_xcut/mx_sis_top.xnr1/mp1 y a vdd vdd p w=4.15e-07 l=1e-07 m=1
